Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O[C:1](=[O:2])[c:3]1[cH:4][cH:5][cH:6][c:7]([N:8]2[CH2:9][CH2:10][CH2:11][CH2:12][C:13]2=[O:14])[cH:15]1.[CH3:16][C:17]([CH3:18])([CH3:19])[O:20][C:21](=[O:22])[NH:23][C@@H:24]1[CH2:25][C@H:26]1[c:27]1[cH:28][cH:29][c:30]([NH2:31])[cH:32][cH:33]1>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][cH:6][c:7]([N:8]2[CH2:9][CH2:10][CH2:11][CH2:12][C:13]2=[O:14])[cH:15]1)[NH:31][c:30]1[cH:29][cH:28][c:27]([C@H:26]2[C@H:24]([NH:23][C:21]([O:20][C:17]([CH3:16])([CH3:18])[CH3:19])=[O:22])[CH2:25]2)[cH:33][cH:32]1,[CH3:16][C:17]([CH3:18])([CH3:19])[O:20][C:21](=[O:22])[NH:23][C@@H:24]1[CH2:25][C@H:26]1[c:27]1[cH:28][cH:29][c:30]([NH2:31])[cH:32][cH:33]1.[OH:101][C:1](=[O:2])[c:3]1[cH:4][cH:5][cH:6][c:7]([N:8]2[CH2:9][CH2:10][CH2:11][CH2:12][C:13]2=[O:14])[cH:15]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][cH:6][c:7]([N:8]2[CH2:9][CH2:10][CH2:11][CH2:12][C:13]2=[O:14])[cH:15]1)[NH:31][c:30]1[cH:29][cH:28][c:27]([C@H:26]2[C@H:24]([NH:23][C:21]([O:20][C:17]([CH3:16])([CH3:18])[CH3:19])=[O:22])[CH2:25]2)[cH:33][cH:32]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (31, 1), ([1, 2], 2), (303, 31.1), ([31.1, 31], 31), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[CH3:1][CH2:2][CH2:3][CH2:4][CH2:5][CH2:6][CH2:7][CH2:8][CH2:9][CH2:10][NH:11][C:12](=[O:13])[CH:14]=[CH:15][c:16]1[cH:17][cH:18][cH:19][c:20]([NH:21][C:22](=[O:23])/[CH:24]=[CH:25]\[C:26](=[O:27])[OH:28])[cH:29]1.[N-]=[N+]=[CH2:30]>>[CH3:1][CH2:2][CH2:3][CH2:4][CH2:5][CH2:6][CH2:7][CH2:8][CH2:9][CH2:10][NH:11][C:12](=[O:13])[CH:14]=[CH:15][c:16]1[cH:17][cH:18][cH:19][c:20]([NH:21][C:22](=[O:23])/[CH:24]=[CH:25]\[C:26](=[O:27])[O:28][CH3:30])[cH:29]1,[CH3:1][CH2:2][CH2:3][CH2:4][CH2:5][CH2:6][CH2:7][CH2:8][CH2:9][CH2:10][NH:11][C:12](=[O:13])[CH:14]=[CH:15][c:16]1[cH:17][cH:18][cH:19][c:20]([NH:21][C:22](=[O:23])/[CH:24]=[CH:25]\[C:26](=[O:27])[OH:28])[cH:29]1.[N-:201]=[N+:101]=[CH2:30]>>[CH3:1][CH2:2][CH2:3][CH2:4][CH2:5][CH2:6][CH2:7][CH2:8][CH2:9][CH2:10][NH:11][C:12](=[O:13])[CH:14]=[CH:15][c:16]1[cH:17][cH:18][cH:19][c:20]([NH:21][C:22](=[O:23])/[CH:24]=[CH:25]\[C:26](=[O:27])[O:28][CH3:30])[cH:29]1,methyl_ester_synthesis,"[(201, [201, 101]), ([101, 30], 28.1), ([28.1, 28], 28), (28, 30), ([30, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[CH:1][CH2:2][C:3]([CH3:4])([CH3:5])[CH3:6].[CH3:7][C:8](=[O:9])[O:10][CH2:11][C:12](=[O:13])[C@@:14]12[CH2:15][NH:16][CH2:17][C@@H:18]1[CH2:19][C@H:20]1[C@@H:21]3[CH2:22][C@H:23]([F:24])[C:25]4=[CH:26][C:27](=[O:28])[CH:29]=[CH:30][C@:31]4([CH3:32])[C@@:33]3([F:34])[C@@H:35]([OH:36])[CH2:37][C@:38]21[CH3:39]>>[CH2:1]([CH2:2][C:3]([CH3:4])([CH3:5])[CH3:6])[N:16]1[CH2:15][C@:14]2([C:12]([CH2:11][O:10][C:8]([CH3:7])=[O:9])=[O:13])[C@H:18]([CH2:17]1)[CH2:19][C@H:20]1[C@@H:21]3[CH2:22][C@H:23]([F:24])[C:25]4=[CH:26][C:27](=[O:28])[CH:29]=[CH:30][C@:31]4([CH3:32])[C@@:33]3([F:34])[C@@H:35]([OH:36])[CH2:37][C@:38]21[CH3:39],[CH3:7][C:8](=[O:9])[O:10][CH2:11][C:12](=[O:13])[C@@:14]12[CH2:15][NH:16][CH2:17][C@@H:18]1[CH2:19][C@H:20]1[C@@H:21]3[CH2:22][C@H:23]([F:24])[C:25]4=[CH:26][C:27](=[O:28])[CH:29]=[CH:30][C@:31]4([CH3:32])[C@@:33]3([F:34])[C@@H:35]([OH:36])[CH2:37][C@:38]21[CH3:39].[O:101]=[CH:1][CH2:2][C:3]([CH3:4])([CH3:5])[CH3:6].[H+:301].[BH3-:302]C#N.[Na+]>>[CH2:1]([CH2:2][C:3]([CH3:4])([CH3:5])[CH3:6])[N:16]1[CH2:15][C@:14]2([C:12]([CH2:11][O:10][C:8]([CH3:7])=[O:9])=[O:13])[C@H:18]([CH2:17]1)[CH2:19][C@H:20]1[C@@H:21]3[CH2:22][C@H:23]([F:24])[C:25]4=[CH:26][C:27](=[O:28])[CH:29]=[CH:30][C@:31]4([CH3:32])[C@@:33]3([F:34])[C@@H:35]([OH:36])[CH2:37][C@:38]21[CH3:39],reductive_amination,"[(16, 1), ([1, 101], 301), (101, 16.1), ([16.1, 16], 16), (16, [16, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 16], 16)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[C:1]([c:2]1[cH:3][cH:4][c:5]([S:6][c:7]2[cH:8][cH:9][cH:10][c:11]([C:12]3([CH3:13])[CH2:14][O:15][CH:16]([CH2:17][CH3:18])[O:19]3)[cH:20]2)[cH:21][cH:22]1)[CH3:23].[NH2:24][OH:25]>>[C:1]([c:2]1[cH:3][cH:4][c:5]([S:6][c:7]2[cH:8][cH:9][cH:10][c:11]([C:12]3([CH3:13])[CH2:14][O:15][CH:16]([CH2:17][CH3:18])[O:19]3)[cH:20]2)[cH:21][cH:22]1)([CH3:23])=[N:24][OH:25],[O:101]=[C:1]([c:2]1[cH:3][cH:4][c:5]([S:6][c:7]2[cH:8][cH:9][cH:10][c:11]([C:12]3([CH3:13])[CH2:14][O:15][CH:16]([CH2:17][CH3:18])[O:19]3)[cH:20]2)[cH:21][cH:22]1)[CH3:23].[NH2:24][OH:25].[H+:301]>>[C:1]([c:2]1[cH:3][cH:4][c:5]([S:6][c:7]2[cH:8][cH:9][cH:10][c:11]([C:12]3([CH3:13])[CH2:14][O:15][CH:16]([CH2:17][CH3:18])[O:19]3)[cH:20]2)[cH:21][cH:22]1)([CH3:23])=[N:24][OH:25],imine_formation,"[(24, 1), ([1, 101], 301), (101, 24.1), ([24.1, 24], 24), (24, [24, 1]), ([1, 101], 101), ([24.1, 24], 24)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
